US05541343
(3) 4-(5-aminopentyl)anisole
Rf value: 0.59 (silica gel; methylene chloride/cyclohexane/methanol/conc. aqueous ammonia=68:15:15:2)

reactant | ammonia | N | H3N
reactant | methylene chloride cyclohexane methanol | C(Cl)Cl.C1CCCCC1.CO
product | 4-(5-aminopentyl)anisole | NCCCCCC1=CC=C(C=C1)OC | C12H19NO
